US07399867B2
Dissolve 6-benzyloxy-2,3-dibromo-benzo[b]thiophene 1-oxide (5.9 g, 14.2 mmol) in THF (120 mL). Add a suspension of 4-(2-piperidin-1-yl-ethoxy)-phenol (3.14 g, 14.2 mmol) and potassium tert-butoxide (1.75 g, 15.6 mmol) in THF (120 mL) and stir at 45° C. for 1 hour. Partition reaction mixture between dichloromethane (400 mL) and saturated aqueous NH4Cl (400 mL) and separate. Wash the organic layer with saturated aqueous NH4Cl (400 mL) and brine. Dry with sodium sulfate, filter, and concentrate in vacuo. Chromatograph the residue on a SiO2 column eluting with methanol in dichloromethane (0 to 5%) to give 6.9 g of 1-{2-[4-(6-benzyloxy-2-bromo-1-oxo-1H-1λ4-benzo[b]thiophen-3-yloxy)-phenoxy]-ethyl}-piperidine (88%).

reactant | 6-benzyloxy-2,3-dibromo-benzo[b]thiophene 1-oxide | 14.2 mmol, 5.9 g | C(C1=CC=CC=C1)OC=1C=CC2=C(S(C(=C2Br)Br)=O)C1 | C15H10Br2O2S
reactant | 4-(2-piperidin-1-yl-ethoxy)-phenol | 14.2 mmol, 3.14 g | N1(CCCCC1)CCOC1=CC=C(C=C1)O | C13H19NO2
reactant | potassium tert-butoxide | 15.6 mmol, 1.75 g | CC(C)([O-])C.[K+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 1-{2-[4-(6-benzyloxy-2-bromo-1-oxo-1H-1λ4-benzo[b]thiophen-3-yloxy)-phenoxy]-ethyl}-piperidine | 6.9 g, 88% | C(C1=CC=CC=C1)OC=1C=CC2=C(S(C(=C2OC2=CC=C(OCCN3CCCCC3)C=C2)Br)=O)C1 | C28H28BrNO4S
